US06025370
In 13 ml of anhydrous tetrahydrofuran was dissolved 0.65 g of 4-bromo-2-fluoro-3-methylbenzoic acid, followed by adding thereto 0.92 g of N,N'-carbonyldiimidazole under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hours. Then, 0.81 g of magnesium ethoxycarbonylacetate was added thereto and the resulting mixture was stirred at the same temperature for 20 hours. The reaction mixture was added to a mixed solvent of 50 ml of toluene and 50 ml of water and the pH was adjusted to 1 with 6N hydrochloric acid, after which the organic layer was separated. The organic layer obtained was washed successively with a saturated aqueous sodium hydrogen-carbonate solution, water and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The resulting residue was purified by a column chromatography (eluent: toluene) to obtain 0.70 g of ethyl 4-bromo-2-fluoro-3-methylbenzoylacetate as colorless crystals.

reactant | 4-bromo-2-fluoro-3-methylbenzoic acid | 0.65 g | BrC1=C(C(=C(C(=O)O)C=C1)F)C | C8H6BrFO2
reactant | magnesium ethoxycarbonylacetate | 0.81 g | C(C)OC(=O)CC(=O)[O-].[Mg+2].C(C)OC(=O)CC(=O)[O-]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | ethyl 4-bromo-2-fluoro-3-methylbenzoylacetate | 0.70 g | BrC1=C(C(=C(C(=O)CC(=O)OCC)C=C1)F)C | C12H12BrFO3
